US07253158B2
4-Chloro-N-(6-methoxy-pyridin-3-ylmethyl)-N-((R)-2-oxo-azepan-3-yl)-benzenesulfonamide
4-Chloro-N-((R)-2-oxo-azepan-3-yl)-benzenesulfonamide (0.04 g, 0.12 mmol), (5-Methoxy-pyridin-2-yl)-methanol (0.04 g, 030 mmol), triphenyl phosphine (0.08 g, 0.30 mmol) were dissolved in dry CH2Cl2 (6 ml) under an argon atmosphere followed by the dropwise addition of diisopropyl azodicarboxylate (60 mg, 0.30 ml) in dry CH2Cl2 (2 ml). The reaction mixture was further stirred overnight at r.t. and then concentrated under reduced pressure. The crude yellow oil was purified over silica gel (ethyl acetate/n-heptane 3:2): colorless gum 0.23 g (43%); MS: m/e=424.0 (MH+), 446.0 (MNa+).

reactant | 4-Chloro-N-((R)-2-oxo-azepan-3-yl)-benzenesulfonamide | 0.12 mmol, 0.04 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1C(NCCCC1)=O | C12H15ClN2O3S
reactant | (5-Methoxy-pyridin-2-yl)-methanol | 0.04 g | COC=1C=CC(=NC1)CO | C7H9NO2
reactant | triphenyl phosphine | 0.30 mmol, 0.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.30 ml, 60 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-(6-methoxy-pyridin-3-ylmethyl)-N-((R)-2-oxo-azepan-3-yl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1C(NCCCC1)=O)CC=1C=NC(=CC1)OC | C19H22ClN3O4S
